US08895744B2
3-(4-(3-chloro-9H-pyrido[2,3-b]indol-6-yl)phenoxy)-N,N-diethylpropan-1-amine (R337)
3-(4-(3-chloro-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indol-6-yl)phenoxy)-N,N-diethylpropan-1-amine (57 mg, 0.10 mmol) is added to a solution of Na° (23 mg, 1 mmol, 10 eq) in methanol (0.1 ml). The reaction is carried out at 65° C. for 2 hours, the mixture is then hydrolysed with ethanol and H2O and extracted with ethyl acetate (3×20 ml). The organic layers are dried over MgSO4, filtered, and concentrated under reduced pressure. The crude residue (orange solid) is purified over flash chromatography (eluted with THF/MeOH 9:1) to give the product R337 as a white solid (29 mg, 0.07 mmol) with a 70% yield. 1H NMR (CDCl3 300 MHz) δ ppm 8.42 (br s, 1H), 8.28 (br. s, 1H), 8.14 (br.s, 1H), 7.70 (dd, 1H, J=1.7, 8.5 Hz); 7.60-7.45 (m, 3H), 7.57 (d, 21-1, J=8.6 Hz), 7.01 (d, 21-1, J=8.7 Hz), 4.08 (t, 2H, J=6.3 Hz), 2.67 (t, 2H, J=7.3 Hz), 2.59 (q, 4H, J=7.1 Hz), 1.98 (p, 2H, J=6.8 Hz), 1.07 (t, 6H, J=7.1 Hz).

reactant | 3-(4-(3-chloro-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indol-6-yl)phenoxy)-N,N-diethylpropan-1-amine | 0.10 mmol, 57 mg | ClC1=CC2=C(N(C3=CC=C(C=C23)C2=CC=C(OCCCN(CC)CC)C=C2)S(=O)(=O)C2=CC=CC=C2)N=C1 | C30H30ClN3O3S
solvent | methanol | 0.1 ml | CO | CH4O
product | 3-(4-(3-chloro-9H-pyrido[2,3-b]indol-6-yl)phenoxy)-N,N-diethylpropan-1-amine | 0.07 mmol, 29 mg, 70% yield | ClC1=CC2=C(NC3=CC=C(C=C23)C2=CC=C(OCCCN(CC)CC)C=C2)N=C1 | C24H26ClN3O
